US07271197B2
vii) Methyl 3-[(2-hydroxyethoxy)methyl]benzoate
A solution of 3-[(2-hydroxyethoxy)methyl]benzonitrile (1 g) in MeOH (20 ml) was treated with conc. H2SO4 (10 ml) at 0° C. The solution was then allowed to warm to room temperature before heating at reflux for 10 h. Aqueous sodium carbonate was added to neutralise the cooled solution before extracting with EtOAc. The combined organic layers were then washed with water, dried (MgSO4) and concentrated in vacuo. The residue was then purified by chromatography (Biotage, 90 g) eluting with 40°C.-60° C. petroleum ether-EtOAc (3:2) to give the title compound (650 mg). LCMS RT=2.33 min.

reactant | 3-[(2-hydroxyethoxy)methyl]benzonitrile | 1 g | OCCOCC=1C=C(C#N)C=CC1 | C10H11NO2
reactant | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | Methyl 3-[(2-hydroxyethoxy)methyl]benzoate | 650 mg | OCCOCC=1C=C(C(=O)OC)C=CC1 | C11H14O4
